US07208495B2
4-(4-methoxyphenyl)-1-(3-methylene-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
A solution of 10% hydrochloric acid (5 ml) was added to a solution of 1-(2,2,3,4,6,7-hexamethyl-3-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine (1.70 g, 4.14 mmol) obtained in Reference Example 26 in acetonitrile (15 ml) at room temperature and the mixture was stirred for 6 hours. The resulting mixture was concentrated under reduced pressure, and the residue was made to basic with 10% aqueous potassium carbonate. The aqueous layer was extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was crystallized from ethanol to obtain 1.50 g (yield 92%) of the title compound. mp. 134–136° C.

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | 1-(2,2,3,4,6,7-hexamethyl-3-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 4.14 mmol, 1.70 g | CC1(OC2=C(C1(O)C)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)C | C25H34N2O3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-(4-methoxyphenyl)-1-(3-methylene-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.50 g, yield 92% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=C)C1C)C)C | C25H32N2O2
